US07935724B2
To a mixture of 6-aminomethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester, hydrochloride salt (109 mg, 0.40 mmol), NMM (132 μL, 1.20 mmol) an DMAP (10 mg, 0.08 mmol) in anhydrous THF (5 mL) were added benzoyl chloride (55.7 μL, 0.48 mmol) and DMF (2.0 mL). After the reaction was complete, the reaction mixture was concentrated. To the residue were added MeOH (1 mL) and water (10 mL). The solid formed was filtered, washed with water and dried. This solid residue was dissolved in anhydrous MeOH (5 mL) and hydroxylamine hydrochloride (106 mg, 1.52 mmol) was added, followed by the addition of NaOMe solution (4.37 M in MeOH, 0.70 mL, 3.1 mmol). The mixture was allowed to stir at rt till the reaction was complete. The reaction mixture was concentrated and the residue was dissolved in a minimal amount of water. The obtained solution was acidified with 2N HCl to pH≈8. The solid formed was filtered, washed with water, collected and purified by flash column chromatography to give 6-(benzoylamino-methyl)-benzo[b]thiophene-2-carboxylic acid hydroxyamide as a white solid. 1H NMR (DMSO-d6, 200 MHz) δ 11.44 (brs, 1H), 9.27 (brs, 1H), 9.13 (t, J=6.2 Hz, 1H), 8.00-7.78 (m, 5H), 7.58-7.28 (m, 4H), 4.60 (d, J=5.8 Hz, 2H). MS (EI): cal'd 327.1 (MH+), exp 327.1 (MH+).

reactant | 6-aminomethyl-benzo[b]thiophene-2-carboxylic acid ethyl ester, hydrochloride salt | 0.40 mmol, 109 mg | Cl.C(C)OC(=O)C1=CC2=C(S1)C=C(C=C2)CN
reactant | NMM | 1.20 mmol, 132 μL | CN1CCOCC1 | C5H11NO
reactant | benzoyl chloride | 0.48 mmol, 55.7 μL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | hydroxylamine hydrochloride | 1.52 mmol, 106 mg | Cl.NO
reactant | NaOMe | 3.1 mmol, 4.37 M, 0.70 mL | C[O-].[Na+]
catalyst | DMAP | 0.08 mmol, 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 6-(benzoylamino-methyl)-benzo[b]thiophene-2-carboxylic acid hydroxyamide | ONC(=O)C1=CC2=C(S1)C=C(C=C2)CNC(C2=CC=CC=C2)=O | C17H14N2O3S
